US06992067B2
[5-(4-{1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-(tert-butyldimethylsilanyloxy)propyl]-4-oxoazetidin-2-yl}phenoxy)pentyl]trimethylammonium bromide (53)
370 mg of 3-[3-(tert-butyldimethylsilanyloxy)-3-(4-fluorophenyl)propyl]-1-(4-fluorophenyl)-4-(4-hydroxyphenyl)azetidin-2-one are dissolved in 3 ml of absolute acetonitrile. 300 mg of KF•alumina (1.15 mol/100 g) and 375 mg of (3-bromopentyl)-trimethylammonium bromide are then added. The reaction mixture is stirred at room temperature overnight and then filtered. The mother liquor is concentrated using a rotary evaporator and the residue is purified using a 5 g SiO2 cartridge (dichloromethane/methanol 4:1). The product is obtained as an oil.

reactant | 3-[3-(tert-butyldimethylsilanyloxy)-3-(4-fluorophenyl)propyl]-1-(4-fluorophenyl)-4-(4-hydroxyphenyl)azetidin-2-one | 370 mg | [Si](C)(C)(C(C)(C)C)OC(CCC1C(N(C1C1=CC=C(C=C1)O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F | C30H35F2NO3Si
reactant | (3-bromopentyl)-trimethylammonium bromide | 375 mg | [Br-].BrC(CC[N+](C)(C)C)CC
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | [5-(4-{1-(4-Fluorophenyl)-3-[3-(4-fluorophenyl)-3-(tert-butyldimethylsilanyloxy)propyl]-4-oxoazetidin-2-yl}phenoxy)pentyl]trimethylammonium bromide | [Br-].FC1=CC=C(C=C1)N1C(C(C1=O)CCC(O[Si](C)(C)C(C)(C)C)C1=CC=C(C=C1)F)C1=CC=C(OCCCCC[N+](C)(C)C)C=C1 | InChI=1S/C38H53F2N2O3Si.BrH/c1-38(2,3)46(7,8)45-35(28-12-16-30(39)17-13-28)25-24-34-36(41(37(34)43)32-20-18-31(40)19-21-32)29-14-22-33(23-15-29)44-27-11-9-10-26-42(4,5)6;/h12-23,34-36H,9-11,24-27H2,1-8H3;1H/q+1;/p-1
